US06391887B1
7-Methoxy-1,2,3,5-tetrahydrocyclopenta[c]quinolin-4-one
A solution of 3-methoxyphenylisocyanate (25.0 g, 168 mmol) in chloroform (110 ml) is mixed with 1-morpholino-1-cyclopentene (25.3 ml, 168 mmol) and refluxed for 15 minutes. The batch is concentrated by evaporation and purified by column chromatography (SiO2) with ethyl acetate-hexane: 34.8 g (87%) of cyclopentanone-2-carboxylic acid-(3-methoxyphenyl)amide: 1H-NMR (CDCl3): δ=1.80-2.55 (m, 6H), 3.18 (t, 1H), 3.81 (s, 3H), 6.68 (dd, 1H), 7.04 (ddd, 1H), 7.22 (t, 1H), 7.33 (t, 1H), 8.76 (br. s, 1H). The amide (11.6 g, 50 mmol) is stirred in concentrated sulfuric acid (40 ml) for 30 minutes at 100° C. The batch is poured onto ice water, diluted with water and extracted with ethyl acetate. The combined extracts are dried (Na2SO4) and concentrated by evaporation in a vacuum: 2.43 g (23%) of product.

reactant | 3-methoxyphenylisocyanate | 168 mmol, 25.0 g | COC=1C=C(C=CC1)N=C=O | C8H7NO2
reactant | 1-morpholino-1-cyclopentene | 168 mmol, 25.3 ml | O1CCN(CC1)C1=CCCC1 | C9H15NO
solvent | chloroform | 110 ml | C(Cl)(Cl)Cl | CHCl3
solvent | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 7-Methoxy-1,2,3,5-tetrahydrocyclopenta[c]quinolin-4-one | COC=1C=CC=2C3=C(C(NC2C1)=O)CCC3 | C13H13NO2
